US04183933
A mixture of 94.0 g (1.0 mole) of methylpyrazine and 83.9 g (1.03 mole) of dimethylamine hydrochloride was heated until it began refluxing. 131.3 g (40% aqueous solution) (1.75 mole) of formaldehyde was added over a period of two hours. The resulting brown viscous mass was refluxed for additional 2.5 hours. The mixture was cooled to room temperature. It was diluted with 250 ml of water, made basic with 10% sodium hydroxide solution and extracted with chloroform. After removing the chloroform the residue was distilled to give 100.6 g of β-dimethylaminoethylpyrazine, b.p. 116°-120° C. at 20 mm Hg.

reactant | methylpyrazine | 1.0 mole, 94.0 g | CC1=NC=CN=C1 | C5H6N2
reactant | dimethylamine hydrochloride | 1.03 mole, 83.9 g | Cl.CNC
reactant | formaldehyde | 1.75 mole, 131.3 g | C=O | CH2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 250 ml | O | H2O
product | β-dimethylaminoethylpyrazine | 100.6 g | CN(CCC1=NC=CN=C1)C | C8H13N3
